US05451579
EXAMPLE 1 1-(aminocarbonylmethyl)-4-aza-1-azoniabicyclo(2.2.2)octane bromide (1)
To a stirred solution of 1,4-diazabicyclo[2.2.2]octane (17.93 g, 0.1599 mol) in 200 ml of acetonitrile at 0° C. was added dropwise a solution of 2-bromoacetamide (20.05 g, 0.1453 mol) in 200 ml of acetonitrile during 25 min. A precipitate began depositing several minutes into the addition. The milky-white reaction mixture was stirred and allowed to warm to room temperature overnight. After 20 h, the white solid was isolated by filtration, washing with ~200 ml of acetonitrile. Drying in vacuo gave 33.37 g of white solid. This material was combined with product from a previous preparation giving a total of 37.93 g for recrystallization. The solid was dissolved in ~230 ml of boiling ethanol, filtered while hot, and allowed to cool slowly overnight. The solution was seeded while still very warm. The mother liquors were decanted from the dense crystalline mass and the crystals were washed three times with cold ethanol (~50 ml total). Drying in vacuo gave 30.47 g of 1 as large colorless hygroscopic prisms, mp 194°-198° C.

reactant | 1,4-diazabicyclo[2.2.2]octane | 0.1599 mol, 17.93 g | N12CCN(CC1)CC2 | C6H12N2
reactant | 2-bromoacetamide | 0.1453 mol, 20.05 g | BrCC(=O)N | C2H4BrNO
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 1-(aminocarbonylmethyl)-4-aza-1-azoniabicyclo(2.2.2)octane bromide | 33.37 g | [Br-].NC(=O)C[N+]12CCN(CC1)CC2 | InChI=1S/C8H15N3O.BrH/c9-8(12)7-11-4-1-10(2-5-11)3-6-11;/h1-7H2,(H-,9,12);1H
